US05059689
18.4 g of cyanuric chloride and 113 g of 2,2,6,6-tetramethylpiperidine are heated for 10 hours at 180° and then for 10 hours at 210° in a 300 ml autoclave. The contents of the autoclave are then taken up in 500 ml of water, and the insoluble residue is filtered off by suction, washed with water and dried. The brownish residue is crystallized from ligroin. 2-Chloro-4,6-bis-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine is obtained as colorless crystals having a melting point of 188°.

reactant | cyanuric chloride | 18.4 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2,2,6,6-tetramethylpiperidine | 113 g | CC1(NC(CCC1)(C)C)C | C9H19N
solvent | water | 500 ml | O | H2O
product | 2-Chloro-4,6-bis-(2,2,6,6-tetramethylpiperidin-1-yl)-1,3,5-triazine | ClC1=NC(=NC(=N1)N1C(CCCC1(C)C)(C)C)N1C(CCCC1(C)C)(C)C | C21H36ClN5
